US03953346
4. Preparation of N,N'-Dimethyl-N,N'-Dihexylazelamide
10.5 grams of azeloylchloride were placed in a container holding 140 milliliters of tetrachloroethylene and dissolved. To the resulting mixture were added 9.2 grams of N-methyl-N-hexylamine, and 1.6 grams of NaOH dissolved in 200 milliliters of water. The completed mixture was agitated for 10-15 minutes; afterwards the organic layer was separated, washed with a dilute aqueous HCl solution. Following this the organic layer was washed with a 10% aqueous Na2CO3 solution and then washed with water. The washed organic layer was dried by contacting with MgSO4 and then the tetrachloroethylene was removed by application of a vacuum.

reactant | azeloylchloride | 10.5 grams | C(CCCCCCCC(=O)Cl)(=O)Cl | C9H14Cl2O2
reactant | tetrachloroethylene | 140 milliliters | ClC(=C(Cl)Cl)Cl | C2Cl4
reactant | N-methyl-N-hexylamine | 9.2 grams | CNCCCCCC | C7H17N
reactant | NaOH | 1.6 grams | [OH-].[Na+]
solvent | water | 200 milliliters | O | H2O
product | N,N'-Dimethyl-N,N'-Dihexylazelamide | CN(C(CCCCCCCC(=O)N(CCCCCC)C)=O)CCCCCC | C23H46N2O2
